US07855202B2
6-(3-Fluoropyridin-4-yl)-2-morpholin-4-yl-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine
A solution of 6-(3-fluoropyridin-4-yl)-2-(methylsulfonyl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine (0.025 g, 0.068 mmol), morpholine (0.024 mL, 0.268 mmol) in dioxane (0.5 mL) was heated in a sealed tube at 120° C. overnight. The solvent was evaporated and the residue was purified by silica gel flash chromatography (95:5 dichloromethane/methanol) to give the title compound (0.011 g, 44% of yield).

reactant | 6-(3-fluoropyridin-4-yl)-2-(methylsulfonyl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.068 mmol, 0.025 g | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)S(=O)(=O)C | C17H12FN5O2S
reactant | morpholine | 0.268 mmol, 0.024 mL | N1CCOCC1 | C4H9NO
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 6-(3-Fluoropyridin-4-yl)-2-morpholin-4-yl-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.011 g, 44% | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)N2CCOCC2 | C20H17FN6O
